US07960409B2
7-[4-(1-Ethyl-1-hydroxy-propyl)-[1,2,3]triazol-1-ylmethyl]-4-(3-fluoro-phenyl)-chromen-2-one
To a solution of 7-(azidomethyl)-4-(3-fluorophenyl)-2H-chromen-2-one (343 mg, 0.78 mmol) and 3-ethyl-1-pentyn-3-ol (80 mg, 0.71 mmol) in THF (7 mL) N,N-diisopropylethylamine (622 uL, 3.6 mmol) and copper iodide (204 mg, 1.07 mmol) were added. After overnight stirring, the reaction was diluted with ethyl acetate, filtered and washed with water and brine. The organic layer was then dried over MgSO4, filtered and concentrated. The crude residue obtained was purified by column chromatography (acetone/CH2Cl2 10:90) to afford the title compound. 1H NMR (400 MHz, acetone-d6): 7.89 (s, 1H), 7.7-7.6 (m, 1H), 7.53 (d, 1H), 7.45-7.32 (m, 4H), 7.27 (d, 1H), 6.42 (s, 1H), 5.79 (s, 2H), 3.78 (s, 1H), 2.0-1.74 (m, 4H), 0.78 (t, 6H).

reactant | 7-(azidomethyl)-4-(3-fluorophenyl)-2H-chromen-2-one | 0.78 mmol, 343 mg | N(=[N+]=[N-])CC1=CC=C2C(=CC(OC2=C1)=O)C1=CC(=CC=C1)F | C16H10FN3O2
reactant | 3-ethyl-1-pentyn-3-ol | 0.71 mmol, 80 mg | C(C)C(C#C)(CC)O | C7H12O
reactant | THF | 3.6 mmol, 7 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 1.07 mmol, 204 mg | [Cu](I)I
product | 7-[4-(1-Ethyl-1-hydroxy-propyl)-[1,2,3]triazol-1-ylmethyl]-4-(3-fluoro-phenyl)-chromen-2-one | C(C)C(CC)(O)C=1N=NN(C1)CC1=CC=C2C(=CC(OC2=C1)=O)C1=CC(=CC=C1)F | C23H22FN3O3
